US04458061
Preparation of Dimethyl 1,5-Cyclooctadiene (III)
20 Ml (100 mmoles) of 50 percent piperylene in other C5 hydrocarbons, 10 ml of toluene, 0.19 g (0.5 mmole) of tris(2,4-pentanedionato-O,O')-iron (also known as iron tri(acetylacetonate), CA registry number [14024-18-1]) and 0.3 g (1.0 mmole) of N,N'-(1,2-dimethyl-1,2-ethanediylidene)bis[4-methoxy-benzenamine] (CA registry [19215-52-2]) are combined under nitrogen in a 50-ml three-necked flask equipped with reflux condenser and nitrogen inlet. The mixture is stirred magnetically and heated to 55° C. 1.5 ml of triisobutyl aluminum (1.0M in toluene--1.5 mmoles) is added. A sample is taken after 1.6 hours and analyzed by gas chromatography. Piperylene is 90 percent converted. The dimethyl cyclooctadiene yield is 71 percent based on converted piperylene. In this embodiment R is methyl, R' is hydrogen and y is 2.

reactant | piperylene | C=CC=CC | C5H8
reactant | hydrogen | [H][H] | H2
product | Dimethyl 1,5-Cyclooctadiene | CC1=C(CCC=CCC1)C | C10H16
